US05728835
4-(Pyrrole-1-yl)-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methoxyphenyl)benzamide
4-Amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methoxyphenyl)benzamide (237.0 mg, 0.50 mmol) was dissolved in acetic acid (5.0 ml), and the solution was mixed with 2,5-dimethoxytetrahydrofuran (0.065 ml, 0.50 mmol) and heated for 1 hour under reflux. After cooling, acetic acid was distilled off under a reduced pressure, the residue was dissolved in ethyl acetate, and the organic layer was washed with water and saturated brine, and dried on anhydrous sodium sulfate. Thereafter, the solvent was distilled off under a reduced pressure, and the resulting residue was purified by a silica gel column chromatography (hexane:ethyl acetate=1:4) to obtain 217.0 mg (82,7%) of the title compound in a colorless amorphous form.

reactant | 4-Amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methoxyphenyl)benzamide | 0.50 mmol, 237.0 mg | NC1=CC=C(C(=O)N(C2=CC=C(C=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C28H30FN3O3
reactant | 2,5-dimethoxytetrahydrofuran | 0.50 mmol, 0.065 ml | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
product | 4-(Pyrrole-1-yl)-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(4-methoxyphenyl)benzamide | 217.0 mg, 82,7% | N1(C=CC=C1)C1=CC=C(C(=O)N(C2=CC=C(C=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C32H32FN3O3
